US04950795
A mixture of 153.8 g (0.6 mole) of benzil dimethyl ketal, 90.1 g (0.6 mole) of triethylene glycol and 3.9 g of toluene-4-sulfonic acid monohydrate are heated to 75-85° C. under an aspirator vacuum (20-30 mbar). At about 63° C., everything is dissolved. The course of the reaction is monitored by thin-layer chromatography. The reaction is stopped as soon as less than 1% of benzil dimethyl ketal is present in the mixture or the amount of benzil formed is larger than the amount of benzil dimethyl ketal still present. This is the case after 2-3 hours. The yellow solution is then cooled and neutralized with 3.8 g of a 30% solution of sodium methylate in methanol. The mixture is then heated to 60° C. under an aspirator vacuum and the methanol is distilled off. The liquid residue is diluted with 500 ml of toluene, stirred with 10 g of activated carbon and filtered through a Hyflo bed. The filtrate is evaporated in vacuo. This gives 208.8 g of a yellow, viscous oil (photoinitiator no. 1).

reactant | benzil dimethyl ketal | 0.6 mole, 153.8 g | COC(C1=CC=CC=C1)(C(=O)C1=CC=CC=C1)OC | C16H16O3
reactant | triethylene glycol | 0.6 mole, 90.1 g | C(COCCOCCO)O | C6H14O4
reactant | toluene-4-sulfonic acid monohydrate | 3.9 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | benzil | C1(=CC=CC=C1)C(=O)C(=O)C1=CC=CC=C1 | C14H10O2
